US08541455B2
A suspension of 3.2 g (27.5 mmol) of methyl 3-oxobutanoate, 5.6 g (55.0 mmol) of phenylacetylene and 700 mg (0.8 mmol) of *[ReBr(CO)3(THF)]2 in 55 mL of anhydrous toluene is stirred for 18 hours at 50° C. After cooling to room temperature, the medium is concentrated under reduced pressure. The residue obtained is taken up in 100 mL of DCM, washed successively with water (100 mL) and brine (100 mL), dried over Na2SO4 and then concentrated under reduced pressure and purified by chromatography on a column of silica gel, eluting with a 99/1 DCM/MeOH mixture. 5 g of methyl 2-acetyl-3-phenylbut-3-enoate are obtained in the form of a yellow oil.

reactant | methyl 3-oxobutanoate | 27.5 mmol, 3.2 g | O=C(CC(=O)OC)C | C5H8O3
reactant | phenylacetylene | 55.0 mmol, 5.6 g | C1(=CC=CC=C1)C#C | C8H6
solvent | toluene | 55 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-acetyl-3-phenylbut-3-enoate | 5 g, Yield=84% | C(C)(=O)C(C(=O)OC)C(=C)C1=CC=CC=C1 | C13H14O3
